2176-08-11 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2176-8-10**] 09:25 AM
 INVASIVE VENTILATION - START [**2176-8-10**] 12:55 PM
   -osmolar and anion gap closing with insulin drip and IVFs
   -no calcium oxalate crystals seen to suggest ethylene glycol tox but
   treating with fomepizole until clear neg serum level
   - questionable [**Doctor First Name **]-[**Doctor Last Name **] tear bleed with coffee ground emesis seen;
   tx with PPI drip, KUB ruled out bowel obstruction
   - 6pm AC with 500 x 20 PEEP 5 FIO2 40 %
   - if Na is worse, needs D5W to replace free water
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Insulin - Regular - 2 units/hour
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2176-8-10**] 01:18 PM
   Heparin Sodium (Prophylaxis) - [**2176-8-11**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-11**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37
C (98.6
   HR: 90 (89 - 130) bpm
   BP: 114/78(87) {12/72(80) - 145/93(111)} mmHg
   RR: 20 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.7 kg (admission): 60.2 kg
             Total In:
                                                                  4,475 mL
                                                                  1,984 mL
   PO:
             TF:
   IVF:
                                                                  4,475 mL
                                                                  1,984 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    540 mL
   Urine:
                                                                  2,650 mL
                                                                    540 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,525 mL
                                                                  1,444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 142 (142 - 142) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 7
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/47/387/27/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 967
   Physical Examination
   General: Intubated, sedated in NAD
   Lungs:  Decreased breath sounds right base; otherwise clear to
   auscultation bilaterally
   CV:  Tachycardic; regular rhythm, normal S1/S2, no murmurs
   Abdomen:  Nondistended, hypoactive bowel sounds, soft, diffusely tender
   Ext:  Warm, well-perfused, 2+ radial pulses, no lower extremity edema
   Labs / Radiology
   198 K/uL
   7.8 g/dL
   44 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   120 mEq/L
   153 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
                             [**2176-8-10**]  07:00 AM
                             [**2176-8-10**]  02:12 PM
                             [**2176-8-10**]  02:16 PM
                             [**2176-8-10**]  02:48 PM
                             [**2176-8-10**]  05:09 PM
                             [**2176-8-10**]  09:44 PM
                             [**2176-8-11**]  01:01 AM
                             [**2176-8-11**]  04:56 AM
   WBC
   9.2
   7.8
   Hct
   27.5
   25.5
   25.3
   24.4
   25.6
   Plt
   358
   198
   Cr
   1.9
   1.2
   1.2
   1.0
   1.0
   1.2
   TCO2
   28
   Glucose
   837
   216
   141
   125
   68
   44
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Lactic Acid:2.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   .
   Serum osmolality- 320
   Ethylene glycol and alcohol profile pending
   Blood and urine cx pending
   .
   CXR: ET tube approx 6 cm above carina, mild R tracheal deviation, R
   lung collapse and effusion
   Assessment and Plan
   46M with DMI and metastatic NSCLC admitted with AMS, found to have DKA
   .
   #. Altered mental status:  Likely related to DKA as hyperosmolar state
   will cause contraction of neurons. Also concern for metastatic disease
   to brain. Unable to do full neuro exam given mental status changes.
   Infection also possibility.
   - Treat DKA as below
   - Continue to assess mental status
   .
   #. Diabetic ketoacidosis:  Hyperglycemia, acidosis, large anion gap,
   and ketonuria. Patient also with large osmolar gap. Preceded by not
   taking insulin x3 days. With partial respiratory compensation.
   - Hydrate patient aggressively. [**First Name8 (NamePattern2) **] [**Last Name (un) 294**] protocol, initially with NS,
   then 1/2NS, then D5 1/2NS when glucose<250.
   - Insulin gtt. Once blood glucose <250, will start D5 1/2 NS. Once gap
   closed and patient is able to tolerate POs, will bridge to subcutaneous
   insulin.
   - Q1 hour blood glucose monitoring
   - Notify [**Last Name (un) 294**]
   - Aggressive electrolyte monitoring, particularly potassium (below),
   sodium
   - Antiemetics
   .
   #. Coffee-ground emesis:  [**Month (only) 11**] be related retching ([**Doctor First Name 331**]-[**Doctor Last Name **] tear).
   Also possibility for ulceration given chemotherapy, radiation therapy.
   - GI consult
   - Type and screen
   - Repeat hematocrit Q6 hours until stable
   - PPI IV
   .
   #. Hyperkalemia:  Serum potassium elevated on admission although likely
   total body potassium depleted given hyperglycemic diuresis. Acidosis
   causes extracellular shift of potassium. Acute renal failure also
   likely a contributor. EKG with peaked T waves in ED. Expect potassium
   to come down with correction of hyperglycemia.
   - Careful monitoring of electrolytes (Q2 hours)
   - Aggressive potassium repletion (with recognition of renal failure)
   once glucose begins to normalize secondary to intracellular shift and
   overall total body potassium depletion
   .
   #. Hyperosmolar gap:  Larger than expected with DKA, although possible
   given that measured Na is underestimated in setting of such high
   hyperglycemia. No known toxin intoxication.
   - Send off screen for ethanol, methanol, ethylene glycol
   - Recheck serum osm once hyperglycemia improves
   .
   #. Acute renal failure:  Baseline creatinine 0.8. Currently creatinine
   1.9. Given large volume diuresis associated with DKA, most likely
   prerenal etiology. ATN also possibility. ?renal toxicity from recently
   started chemotherapeutic agents.
   - Continue hydration, as above
   - Urine lytes
   .
   #. Right pleural effusion:  Known malignant pleural effusion. Will
   watch for indication of post-obstructive pneumonia. Afebrile and
   without leukocytosis, although does have left-shift.
   .
   #. NSLC:  s/p XRT. Cycle 1 of gemcitibane, carboplatin started [**2176-8-6**].
   - Notify oncologist of admission
   - Continue morphine SR per outpatient regimen, with hold parameters
   .
   #. Bipolar disorder:
   - Continue Depakote, quietiapine, and venlafaxine per home regimen
   .
   #. Hypertension:  Not on medication therapy.
   .
   #. Hyperlipidemia:  Not on medication therapy.
   .
   FEN:  Liquid diet given nausea, advance as tolerated; aggressive fluid
   resuscitation, as above
   Prophylaxis:  Pneumoboots and heparin SC TID (double coverage given
   malignancy), PPI per home regimen, bowel regimen standing and as needed
   Access:  PIV, right femoral CVL (will need to replace given infection
   risk)
   Code:  FULL CODE, presumed - need to further discuss with wife and
   patient when his mental status improves
   Communication:  [**Name (NI) 342**] [**Name (NI) 1222**] (wife)
   Disposition:  ICU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin drip
   Lines:
   Multi Lumen - [**2176-8-10**] 09:25 AM
   18 Gauge - [**2176-8-10**] 09:27 AM
   Prophylaxis:
   DVT: p-boots and subq heparin
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code (presumed)
   Disposition: ICU for now

2176-08-11 09:17:00 Physician Attending Progress Note
Chief Complaint: f/u DKA
   HPI:
    46 M w/ Stage IV NSCLC, admitted w/ DKA, intubated for airway
   protection in the setting of coffee ground emesis.
   24 Hour Events:
 MULTI LUMEN - START [**2176-8-10**] 09:25 AM
 INVASIVE VENTILATION - START [**2176-8-10**] 12:55 PM
   Osmolar gap closed
   AG closed
   Contined on A/C
   Rec'd D5 for [**Month (only) 202**] BS
   No further coffee grounds from NGT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Insulin - Regular - 2 units/hour
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2176-8-10**] 01:18 PM
   Heparin Sodium (Prophylaxis) - [**2176-8-11**] 05:55 AM
   Dextrose 50% - [**2176-8-11**] 06:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-11**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.6
   HR: 81 (81 - 130) bpm
   BP: 155/93(106) {12/72(80) - 155/93(111)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 63.7 kg (admission): 60.2 kg
             Total In:
                                                                  4,475 mL
                                                                  2,697 mL
   PO:
             TF:
   IVF:
                                                                  4,475 mL
                                                                  2,647 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                  1,110 mL
   Urine:
                                                                  2,650 mL
                                                                    710 mL
   NG:
                                                                    300 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  1,525 mL
                                                                  1,587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 142 (142 - 142) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 7
   RSBI Deferred: Agitated, No Spon Resp
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.36/47/387/27/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 967
   Physical Examination
   Agitated, not following commands
   PERRL.
   Intubated.
   Heart: Tachycardic, S1,S2. No m/r/g
   Lungs: b/l rhonchi anteriorly
   Abd: +bs. Soft. NT. ND.
   Ext: No c/c/e. R femoral line in place.  Site c/d/i.
   Labs / Radiology
   7.8 g/dL
   198 K/uL
   44 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   120 mEq/L
   153 mEq/L
   25.6 %
   7.8 K/uL
        [image002.jpg]
   Blood and Urine Cx pending
                             [**2176-8-10**]  07:00 AM
                             [**2176-8-10**]  02:12 PM
                             [**2176-8-10**]  02:16 PM
                             [**2176-8-10**]  02:48 PM
                             [**2176-8-10**]  05:09 PM
                             [**2176-8-10**]  09:44 PM
                             [**2176-8-11**]  01:01 AM
                             [**2176-8-11**]  04:56 AM
   WBC
   9.2
   7.8
   Hct
   27.5
   25.5
   25.3
   24.4
   25.6
   Plt
   358
   198
   Cr
   1.9
   1.2
   1.2
   1.0
   1.0
   1.2
   TCO2
   28
   Glucose
   837
   216
   141
   125
   68
   44
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Lactic Acid:2.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   46M w/ Stage IV NSCLC, R pleural effusion, a/w DKA, c/b UGIB, intubated
   for airway protection.
   Delerium
 likely contribution of hypernatremia and recent hyperosmolar
   state.  Prior MRI w/o evidence of mets.  If develops fever (101) may
   need LP to r/o encephalitis.   Will also try inc fentanyl for component
   of pain and re-assess when electrolytes improved.
   Hypernatremia
 secondary to hyperosmolar diuresis.   Calculate free
   water gap, replace as D5.
   DKA
 Likely [**1-29**] med non-compliance (no insulin x 3d).  AG now
   closed.   Continued on insulin gtt, plan to transition when able to
   tolerate p.o./no longer requiring mechanical ventilation.   Continued
   on D5
 NS w/ K @ 250.  Monitor q6H
   Osmolar gap- now closed, contined on fomepizole until ethylene glycol
   neg.
   UGIB?  - unclear given neg gastro-occult, but poor test.  Likely MW
   tear.   Transition to IV PPI [**Hospital1 **]
   Respiratory failure
 intubated for airway protection in the setting of
   altered mental status and UGIB
   ARF
 now improved w/ volume repletion.
   NSCLC, stage IV- Lg R pleural effusion.
   Fever- 100.5, possibly [**1-29**] acute DKA.
 .H/O DIABETES MELLITUS (DM), TYPE I
 .H/O HYPERTENSION, BENIGN
 .H/O CANCER (MALIGNANT NEOPLASM), LUNG
 DIABETIC KETOACIDOSIS (DKA
 DELIRIUM / CONFUSION
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2176-8-10**] 09:25 AM
   18 Gauge - [**2176-8-10**] 09:27 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: Presumed full
   Disposition :ICU
   Total time spent: 45

2176-08-12 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Last Name (un) 294**]: stay the course
   - required 3 amps of D50 for hypoglycemia, insulin now running at 1
   unit/hr
   - GI: no EGD for now
   - free water deficit 3L, Na 153 - gave 1L 1/2 NS, then D5W @ 100cc/hr
   until Na 143, then switched to D5NS @ 75cc/hr for maintainence
   - followed commands during sedation holiday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Dextrose 50% - [**2176-8-12**] 05:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-12**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 109 (79 - 121) bpm
   BP: 95/64(72) {92/64(24) - 140/89(100)} mmHg
   RR: 19 (0 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.5 kg (admission): 60.2 kg
             Total In:
                                                                  6,745 mL
                                                                    853 mL
   PO:
             TF:
   IVF:
                                                                  6,295 mL
                                                                    803 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,000 mL
                                                                    790 mL
   Urine:
                                                                  1,600 mL
                                                                    640 mL
   NG:
                                                                    400 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,745 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 262 (262 - 262) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 154
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 11.2 L/min
   Physical Examination
   General: Intubated, sedated in NAD
   Lungs:  bilateral coarse rhonchi L>R; some decreased breath sounds on R
   CV:  Tachycardic; regular rhythm, normal S1/S2, no murmurs
   Abdomen:  Nondistended, hypoactive bowel sounds, soft, no grimace
   Ext:  Warm, well-perfused, 2+ radial pulses, no lower extremity edema
   Labs / Radiology
   105 K/uL
   9.4 g/dL
   47 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   111 mEq/L
   143 mEq/L
   28.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2176-8-10**]  02:48 PM
                             [**2176-8-10**]  05:09 PM
                             [**2176-8-10**]  09:44 PM
                             [**2176-8-11**]  01:01 AM
                             [**2176-8-11**]  04:56 AM
                             [**2176-8-11**]  11:40 AM
                             [**2176-8-11**]  04:56 PM
                             [**2176-8-11**]  07:20 PM
                             [**2176-8-11**]  11:31 PM
                             [**2176-8-12**]  04:51 AM
   WBC
   7.8
   5.7
   6.0
   6.6
   6.1
   Hct
   25.5
   25.3
   24.4
   25.6
   24.3
   30.6
   29.6
   28.8
   Plt
   198
   145
   128
   110
   105
   Cr
   1.2
   1.0
   1.0
   1.2
   0.8
   0.8
   0.9
   0.7
   TCO2
   28
   Glucose
   141
   125
   68
   44
   166
   80
   139
   47
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Alk Phos / T Bili:/0.1,
   Lactic Acid:2.6 mmol/L, LDH:169 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   .
   Ethylene glycol and alcohol profile pending
   Blood cx pending
   Urine cx negative
   .
   CXR: ET tube approx 4 cm above carina, mild R tracheal deviation, R
   lung collapse and effusion
   Assessment and Plan
   46M with DMI and metastatic NSCLC admitted with AMS, found to have DKA
   .
   #. Respiratory Failure:  Intubated to protect airway [**1-29**] agitation and
   vomiting.  New R lung collapse seen on CXR and failed RSBI this AM in
   setting of known R malignant pleural effusion from NSCLC.  Given
   collapse, will plan to do bronch today and pending results will
   consider [**Female First Name (un) 231**].  Differential includes infected effusion,
   post-obstructive pneumonia, aspiration pneumonia, VAP.
   -bronch today
   - pending bronch, consider [**Female First Name (un) 231**]
   .
   #. Altered mental status:  Likely related to DKA on admission as
   hyperosmolar state can cause contraction of neurons. Also concern for
   metastatic disease to brain although had MRI in [**Month (only) 93**] without brain
   mets. Infection (VAP, aspiration pneumonia, encephalitis) is also a
   possibility although decreasing WBC count without abx agrues against
   this. Unable to do full neuro exam given mental status changes but
   followed commands during sedation holiday yesterday.
   - trend WBC count
   - Continue to assess mental status with sedation weaning
   - Consider LP if worsening fever and no improvement
   .
   #. Diabetic ketoacidosis:  Anion and osmolar gap now closed.  Receiving
   D5 1/2NS with KCl at 250cc/hr and still on insulin drip.
   - Once patient is able to tolerate POs, will bridge to subcutaneous
   insulin.
   - Q4 hour blood glucose monitoring
   - [**Last Name (un) 294**] following
   - Aggressive electrolyte monitoring, particularly potassium (below),
   sodium
   - Antiemetics
   .
   #. Hypokalemia:  Serum potassium now low reflecting low total body
   potassium depleted given hyperglycemic diuresis and intracellular shift
   now that acidosis is correcting.
   - Careful monitoring of electrolytes (Q6 hours)
   - Aggressive potassium repletion with goal K>4.5
   .
   #. Hypernatremia:  In setting of hyperosmolar gap on admission with
   free water deficit.  Will calculate free water deficit and replace with
   D5W (separate from the 1/2NS with KCl).
   # Hyperosmolar gap: Likely secondary to DKA as gap closed with anion
   gap closing and no calcium oxalate crystals seen on urine exam.
   Continuing to empirically treat for possible ethylene glycol intox with
   fomepizole until serum level comes back as negative.
   - f/u  methanol (alcohol profile), ethylene glycol
   .
   #. Coffee-ground emesis:  [**Month (only) 11**] be related retching ([**Doctor First Name 331**]-[**Doctor Last Name **] tear).
   Also possibility for ulceration given chemotherapy, radiation therapy.
   - GI consulted and does not recommend EGD as likely was M-W tear
   - Type and screen active
   - Repeat hematocrit Q6 hours until stable
   - Will change PPI IV drip to PPI IV BID
   .
   #. Acute renal failure:  Resolved.  Baseline creatinine 0.8 with
   creatinine 1.9 on admission. Given large volume diuresis associated
   with DKA and response to IVFs likely prerenal etiology. ATN also
   possibility. ?renal toxicity from recently started chemotherapeutic
   agents.
   - Continue hydration, as above
   .
   #. Right pleural effusion:  Known malignant pleural effusion. Will
   watch for indication of post-obstructive pneumonia. Afebrile and
   without leukocytosis, although does have left-shift.
   .
   #. NSLC:  s/p XRT. Cycle 1 of gemcitibane, carboplatin started [**2176-8-6**].
   - on fentanyl and propofol drips for pain control and sedation
   .
   #. Bipolar disorder:
   - Holding home Depakote, quietiapine, and venlafaxine as pt is NPO
   .
   #. Hypertension:  Not on medication therapy.
   .
   #. Hyperlipidemia:  Not on medication therapy.
   .
   FEN:  NPO; aggressive fluid resuscitation, as above
   Prophylaxis:  Pneumoboots, PPI per home regimen, bowel regimen standing
   and as needed
   Access:  PIV, right femoral CVL (will need to replace given infection
   risk)
   Code:  FULL CODE, presumed - need to further discuss with wife and
   patient when his mental status improves
   Communication:  [**Name (NI) 342**] [**Name (NI) 1222**] (wife)
   Disposition:  ICU for now
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin drip
   Lines:
   Multi Lumen - [**2176-8-10**] 09:25 AM
   18 Gauge - [**2176-8-10**] 09:27 AM
   Prophylaxis:
   DVT: p-boots (no heparin as possible UGI bleed)
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code (presumed)
   Disposition: ICU for now

2176-08-12 10:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilation.  RSBI unfavorable >150.
   Receiving free H2O to replete deficit.
   Tolerating sedation discontinuation.
   Treatment for DKA tolerated well.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Dextrose 50% - [**2176-8-12**] 05:09 AM
   Pantoprazole (Protonix) - [**2176-8-12**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-8-12**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38
C (100.4
   HR: 108 (79 - 121) bpm
   BP: 107/73(82) {92/64(72) - 140/89(100)} mmHg
   RR: 23 (0 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71.5 kg (admission): 60.2 kg
             Total In:
                                                                  6,745 mL
                                                                  1,059 mL
   PO:
             TF:
   IVF:
                                                                  6,295 mL
                                                                  1,009 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,000 mL
                                                                    890 mL
   Urine:
                                                                  1,600 mL
                                                                    740 mL
   NG:
                                                                    400 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  4,745 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 262 (262 - 262) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 154
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , Dullness :
   right), (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial:
   right, No(t) Wheezes : , Diminished: right, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   105 K/uL
   47 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   111 mEq/L
   143 mEq/L
   28.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2176-8-10**]  02:48 PM
                             [**2176-8-10**]  05:09 PM
                             [**2176-8-10**]  09:44 PM
                             [**2176-8-11**]  01:01 AM
                             [**2176-8-11**]  04:56 AM
                             [**2176-8-11**]  11:40 AM
                             [**2176-8-11**]  04:56 PM
                             [**2176-8-11**]  07:20 PM
                             [**2176-8-11**]  11:31 PM
                             [**2176-8-12**]  04:51 AM
   WBC
   7.8
   5.7
   6.0
   6.6
   6.1
   Hct
   25.5
   25.3
   24.4
   25.6
   24.3
   30.6
   29.6
   28.8
   Plt
   198
   145
   128
   110
   105
   Cr
   1.2
   1.0
   1.0
   1.2
   0.8
   0.8
   0.9
   0.7
   TCO2
   28
   Glucose
   141
   125
   68
   44
   166
   80
   139
   47
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Alk Phos / T Bili:/0.1,
   Lactic Acid:2.6 mmol/L, LDH:169 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   46M w/ Stage IV NSCLC, R pleural effusion, a/w DKA, c/b UGIB.
   RESPIRATORY FAILURE -- initially intubated for airway protection.  Now
   with evidence for continued dependence for mechanical ventilation.
   Suspect multifactorial, including Right lung collapse/atalectasis,
   development of endobronchial lesion, progressive right pleural effusion
   (in context of volume expansion), evolving VAP, on background of large
   right pleural effusion.  Plan continue mechanical ventilation.  Monitor
   for evidence for VAP.  Plan bronchoscopy to assess airway patency.
   Large volume thoracentesis may not be possible, but will check with IP
   service to assess success in recent pass.
   DELERIUM -- initally contributing to toxic/metabolic etiology
   (hypernatremia, hyperosmolar state).  Prior MRI w/o evidence of mets.
   Limit medications.  If develops fever (101) may need LP to r/o
   encephalitis.
   HYPERNATREMIA -- Continue replete free water to maintain Na WNL.
   Monitor Na.
   DKA
 Likely [**1-29**] med non-compliance (no insulin x 3d).  AG now
   closed.   Continued on insulin gtt, plan to transition when able to
   tolerate p.o./no longer requiring mechanical ventilation.   Continued
   on D5
 NS w/ K @ 250.  Monitor q6H
   OSMOLAR GAP -- Osmolar gap- now closed, d/c fomepizole until ethylene
   glycol neg.
   UGIB -- clinical concern for [**Doctor First Name 331**]-[**Doctor Last Name **], but unclear.   Transition
   to IV PPI [**Hospital1 **].  GI Consultation following.
   ACUTE RENAL FAILURE --  improved with volume repletion.
   NUTRIONAL SUPPORT -- initiate TF
   NSCLC, stage IV- Lg R pleural effusion.  Recent chemotherapy,
   ?palliative.
   Fever- 100.5, possibly [**1-29**] acute DKA, but concern for infection
   (including empyema, evolving VAP) or tumor (lung CA).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-8-10**] 09:25 AM
   18 Gauge - [**2176-8-10**] 09:27 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2176-08-13 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -CXR: Right lung is now entirely collapsed with little if any increase
   in the volume of right pleural effusion
   -Bronchoscopy: Endobronchial lesion from carina to RLL subsegments -
   all of these orifices appeared narrowed, erythematous and edematous,
   easily collapsible. ?Extrinsic compression. No obvious
   secretions/mucous plugs.
   -IP: no fluid to tap; i.e. lung is collapsed - no/little effusion.
   -CT chest non-contrast ordered. To be done first thing in AM -hopefully
   ready for rounds.
   -Family meeting [**2176-8-13**] at 3pm - [**First Name8 (NamePattern2) **] [**First Name8 (NamePattern2) 5445**] [**Last Name (NamePattern1) 7768**] (Hem/Onc) when wife
   gets to ICU
   -AC 500 x 20 with FIO2: 40 % and PEEP: 5: ABG: 7.43/35/132/24
   -A-line inserted yesterday.
   Sedation: Fentanyl 125 mcg/hr, Propofol 90 mcg/kg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-8-12**] 07:17 PM
   Midazolam (Versed) - [**2176-8-13**] 04:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-13**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 110 (87 - 111) bpm
   BP: 99/58(72) {99/54(70) - 125/83(97)} mmHg
   RR: 20 (0 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 60.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,965 mL
                                                                    877 mL
   PO:
             TF:
   IVF:
                                                                  2,915 mL
                                                                    877 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                  1,440 mL
   Urine:
                                                                  1,720 mL
                                                                  1,440 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,095 mL
                                                                   -561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/35/132/25/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General: Intubated, sedated, spontaneously opening his eyes, moving all
   4 extremities, not following commands, NAD
   Lungs:  diffuse rhonchi on L, decreased breath sounds on R
   CV:  Tachycardic; regular rhythm, normal S1/S2, no murmurs
   Abdomen:  Nondistended, hypoactive bowel sounds, soft, no grimace
   Ext:  Warm, well-perfused, 2+ radial pulses, no lower extremity edema
   Labs / Radiology
   74 K/uL
   9.0 g/dL
   71 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   27.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2176-8-11**]  04:56 AM
                             [**2176-8-11**]  11:40 AM
                             [**2176-8-11**]  04:56 PM
                             [**2176-8-11**]  07:20 PM
                             [**2176-8-11**]  11:31 PM
                             [**2176-8-12**]  04:51 AM
                             [**2176-8-12**]  10:21 AM
                             [**2176-8-12**]  03:15 PM
                             [**2176-8-13**]  12:35 AM
                             [**2176-8-13**]  04:02 AM
   WBC
   7.8
   5.7
   6.0
   6.6
   6.1
   9.1
   Hct
   25.6
   24.3
   30.6
   29.6
   28.8
   27.9
   Plt
   198
   145
   128
   110
   105
   74
   Cr
   1.2
   0.8
   0.8
   0.9
   0.7
   0.8
   0.6
   TCO2
   27
   24
   Glucose
   44
   166
   80
   139
   47
   77
   113
   71
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Alk Phos / T Bili:/0.1,
   Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:169 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Corrected Ca2+ : 8.96
   .
   Blood cx pending
   Urine cx negative
   .
   CXR: ET tube approx 3 cm above carina, R tracheal deviation, R lung
   collapse
   Assessment and Plan
   46M with DMI and metastatic NSCLC admitted with AMS, found to have DKA
   .
   #. Respiratory Failure:  Intubated to protect airway [**1-29**] agitation and
   vomiting.  R lung collapse seen on CXR and failed RSBI yesterday
   (tachypnea to 40s) in setting of known R malignant pleural effusion
   from NSCLC.  Bronched yesterday with RLL orifices narrowed likely from
   extrinsic compression but no obvious secretions or mucous plugs.  IP
   called and found no pleural fluid to tap for [**Female First Name (un) 231**].  Question if this
   collapse was present on admission given similar CXR findings.
   Differential includes infection (infected effusion, post-obstructive
   pneumonia, aspiration pneumonia, VAP) or failing RSBI [**1-29**] agitation.
   Plan to eval lungs with CT chest today and considering extubation to
   see how he does (assuming that his failing is RSBI is due to agitation
   causing tachypnea).
   -f/u CT chest
   - possible extubation later today
   .
   #. Altered mental status:  [**Month (only) 11**] have been related to DKA on admission as
   hyperosmolar state can cause contraction of neurons. Also concern for
   metastatic disease to brain although had MRI in [**Month (only) 93**] without brain
   mets. Infection (VAP, aspiration pneumonia, encephalitis) is also a
   possibility although decreasing WBC count without abx agrues against
   this. Other underlying issue is his bipolar disorder (we have been
   holding his meds due to being NPO).  Unable to do full neuro exam given
   mental status changes but follows commands during sedation holiday
   yesterday.
   - trend WBC count, adding on diff to look for signs of infection
   - Continue to assess mental status with sedation weaning
   - Consider LP if worsening fever, WBC and no improvement
   - CT  head today to look for signs of bleeding (given thrombocytopenia)
   - restarting his depakote and seroquel, still holding venlafaxine
   - given Haldol for acute agitation during rounds
   .
   #. Right pleural effusion:  Known malignant pleural effusion. Will
   watch for indication of post-obstructive pneumonia.  Will have more
   information after chest CT.
   - f/u chest CT
   .
   #. Coffee-ground emesis:  No events since day of admission.  [**Month (only) 11**] be
   related retching ([**Doctor First Name 331**]-[**Doctor Last Name **] tear). Also possibility for ulceration
   given chemotherapy, radiation therapy.
   - Type and screen active
   - trend daily hematocrit
   - continue PPI IV BID
   manage
   .
   # Thrombocytopenia: Plt count decreasing since admission.  This is
   likely medication related as he just received chemo on [**8-6**] and he is
   on a PPI.  Getting head CT today to eval for bleeding as cause of
   AMS/agitation.
   -trend plt count
   - plt goal > 20
   .
   #. Diabetic ketoacidosis: Resolved. Receiving D5NS at 75cc/hr and still
   on insulin drip.
   - start tube feeds after bronch and continue insulin drip
   - Once patient is able to tolerate POs, will bridge to subcutaneous
   insulin.
   - QID hour blood glucose monitoring
   -[**Last Name (un) 294**] recs: Continue IVF D5 NS; When ready to transition out of ICU
   and off drip, would start NPH 8U q8H and humalog sliding scale b**d on
   insulin needs once TF on board.
   - Antiemetics PRN
   .
   #. NSLC:  s/p XRT. Cycle 1 of gemcitibane, carboplatin started [**2176-8-6**].
   - on fentanyl and propofol drips for pain control and sedation
   - receiving palliative chemo per onc
   - pain for family meeting today to discuss prognosis
   .
   #. Bipolar disorder:
   - Restarting home Depakote, quietiapine
   - Still holding venlafaxine, likely to restart soon
   .
   #. Hypertension:  History of HTN but BPs controlled here and not on
   medication therapy at home.
   .
   #. Hyperlipidemia:  H/o of hyperlipidemia but not on medication
   therapy.
   .
   FEN:  NPO; aggressive fluid resuscitation, starting tube feeds after CT
   chest and possible extubation
   Prophylaxis:  Pneumoboots, PPI per home regimen, bowel regimen standing
   and as needed
   Access:  PIVs
   Code:  FULL CODE
   Communication:  [**Name (NI) 342**] [**Name (NI) 1222**] (wife)
   Disposition:  ICU for now
   ICU Care
   Nutrition: NPO (restarting TFs soon)
   Glycemic Control:  Insulin drip
   Lines:
   20 Gauge - [**2176-8-12**] 07:20 PM
   Arterial Line - [**2176-8-13**] 12:43 AM
   Prophylaxis:
   DVT: p-boots (no heparin as possible UGI bleed)
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code (presumed)
   Disposition: ICU for now

2176-08-13 09:09:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Bronchoscopy yesterday demonstrated (predominately) extrinsic
   compression of RLL subsemental bronchi.  Some mucosal thickening with
   small sessile lesion (non-obstructing) in right basilar subsegment
   (suspicious for tumor).
   Thoracic US demonstrated limited fluid.  Plan for chest CT scan.
   Aggitated this AM, off Propofol, higher doses of fentanyl and versed.
   Tube feeds not yet initiated.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 2.5 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2176-8-13**] 04:36 AM
   Pantoprazole (Protonix) - [**2176-8-13**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-8-13**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 113 (87 - 113) bpm
   BP: 118/84(95) {99/54(70) - 125/84(97)} mmHg
   RR: 20 (0 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 60.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,965 mL
                                                                  1,014 mL
   PO:
             TF:
   IVF:
                                                                  2,915 mL
                                                                  1,014 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                  1,725 mL
   Urine:
                                                                  1,720 mL
                                                                  1,725 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,095 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 34 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/35/132/25/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, Anxious, No(t) Diaphoretic, Aggitated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , Dullness :
   Right), (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial:
   Right, No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, all 4
   extremities, Sedated, No(t) Paralyzed, Tone: Normal, Intermittently
   attentive
   Labs / Radiology
   9.0 g/dL
   74 K/uL
   71 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   27.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2176-8-11**]  04:56 AM
                             [**2176-8-11**]  11:40 AM
                             [**2176-8-11**]  04:56 PM
                             [**2176-8-11**]  07:20 PM
                             [**2176-8-11**]  11:31 PM
                             [**2176-8-12**]  04:51 AM
                             [**2176-8-12**]  10:21 AM
                             [**2176-8-12**]  03:15 PM
                             [**2176-8-13**]  12:35 AM
                             [**2176-8-13**]  04:02 AM
   WBC
   7.8
   5.7
   6.0
   6.6
   6.1
   9.1
   Hct
   25.6
   24.3
   30.6
   29.6
   28.8
   27.9
   Plt
   198
   145
   128
   110
   105
   74
   Cr
   1.2
   0.8
   0.8
   0.9
   0.7
   0.8
   0.6
   TCO2
   27
   24
   Glucose
   44
   166
   80
   139
   47
   77
   113
   71
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Alk Phos / T Bili:/0.1,
   Lactic Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:169 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   46 yom Stage IV NSCLC, R pleural effusion, s/p DKA and mild UGIB., now
   with progressive right atalectasis and respiratory failure
   RESPIRATORY FAILURE -- initially intubated for airway protection.  Now
   with evidence for continued dependence for mechanical ventilation.
   Suspect multifactorial, including Right lung collapse/atalectasis,
   perhaps progressive right pleural effusion (in context of volume
   expansion), evolving VAP.  Plan continue mechanical ventilation.
   Monitor for evidence for VAP.  Chest CT to evaluate right thorax
   anatomy.
   DELERIUM -- initally contributing to toxic/metabolic etiology
   (hypernatremia, hyperosmolar state).  Prior MRI w/o evidence of mets.
   Limit medications.  Resume usual psych medications.  If develops fever
   (101) may need LP to r/o encephalitis.
   HYPERNATREMIA -- Resolved.  Monitor Na.
   DKA
 Likely [**1-29**] med non-compliance (no insulin x 3d).  AG now
   closed.   Continued on insulin gtt, plan to transition when able to
   tolerate p.o./no longer requiring mechanical ventilation.   Continued
   on D5
 NS w/ K @ 250.  Monitor q6H
   OSMOLAR GAP -- Osmolar gap- now closed, d/c fomepizole until ethylene
   glycol neg.
   UGIB -- clinical concern for [**Doctor First Name 331**]-[**Doctor Last Name **], but unclear.   Transition
   to IV PPI [**Hospital1 **].  GI Consultation following.
   ACUTE RENAL FAILURE --  improved with volume repletion.  Monitor
   NUTRIONAL SUPPORT -- initiate TF.
   NSCLC, stage IV- Right pleural effusion, now with right lung
   atalectasis due to extrinsic compression.   Recent chemotherapy,
   ?palliative.
   Fever- 100.5, possibly [**1-29**] acute DKA, but concern for infection
   (including empyema, evolving VAP) or tumor (lung CA).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-8-12**] 07:20 PM
   Arterial Line - [**2176-8-13**] 12:43 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extensive family discussion, involving wife and sister and brother.
   Representatives from Oncology and MICU services present.  Updated
   medical condition and answered all questions.  All recognize extent of
   underlying malignancy.  Discussed treatment of pulmonary embolism
   plan for IVC filter and lovenox.  Hope for extubation trial and further
   discussion with patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2176-8-13**] 17:23 ------

2176-08-14 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -R acute pulmonary thrombus and large mass with very little lung tissue
   seen on Chest CT (started lovenox)
   - no bleed on head CT
   - family meeting: discussed poor prognosis of cancer in light of
   diabetes, family to discuss code status and goals of care with patient
   when he is able to participate in conversation
   - extubated around 4:40pm with gas 7.44/40/98/28
   - advanced diet as tolerated to regular, diabetic
   [**First Name8 (NamePattern2) 24**] [**Last Name (un) 294**], D10 (but difficult to order and now on po so keeping with
   D5NS) with insulin drip.  Will transition to NPH 8 units q8hr with
   insulin drip once stabilized and taking POs
   - restarted home dronabinol and reglan for nausea, fentanyl patch for
   pain control
   - psych meds confirmed with pharmacy ([**Last Name (un) 7790**] in [**Location (un) 3734**]): Seroquel 300
   [**Hospital1 **] with additional 100mg qhs, Depakote ER 500mg qAM, Depakote 1000mg
   qHS, venlafaxine ER 225mg daily
   - tachycardia to 160s overnight but denied any chest pain or SOB.
   sinus tach EKG.  treated with morphine for pain and 500 cc bolus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Dextrose 50% - [**2176-8-13**] 02:29 PM
   Pantoprazole (Protonix) - [**2176-8-13**] 08:38 PM
   Lorazepam (Ativan) - [**2176-8-14**] 12:23 AM
   Morphine Sulfate - [**2176-8-14**] 03:06 AM
   Haloperidol (Haldol) - [**2176-8-14**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-14**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 128 (99 - 139) bpm
   BP: 122/67(88) {84/50(65) - 189/186(187)} mmHg
   RR: 35 (0 - 35) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 60.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,197 mL
                                                                  1,600 mL
   PO:
             TF:
   IVF:
                                                                  3,122 mL
                                                                  1,600 mL
   Blood products:
   Total out:
                                                                  4,585 mL
                                                                  2,000 mL
   Urine:
                                                                  4,585 mL
                                                                  2,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,388 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 446 (436 - 696) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.44/40/98.[**Numeric Identifier 500**]/25/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General: Lying in bed, answers questions appropriately and following
   commands, NAD
   Lungs:  clear to auscultation on L, decreased breath sounds on R
   CV:  Tachycardic; regular rhythm, normal S1/S2, no murmurs
   Abdomen:  Nondistended, hypoactive bowel sounds, soft, nontender
   Ext:  Warm, well-perfused, 2+ radial pulses, no lower extremity edema
   Labs / Radiology
   43 K/uL
   8.1 g/dL
   118 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   5 mg/dL
   110 mEq/L
   145 mEq/L
   24.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2176-8-11**]  04:56 PM
                             [**2176-8-11**]  07:20 PM
                             [**2176-8-11**]  11:31 PM
                             [**2176-8-12**]  04:51 AM
                             [**2176-8-12**]  10:21 AM
                             [**2176-8-12**]  03:15 PM
                             [**2176-8-13**]  12:35 AM
                             [**2176-8-13**]  04:02 AM
                             [**2176-8-13**]  05:00 PM
                             [**2176-8-14**]  04:18 AM
   WBC
   6.0
   6.6
   6.1
   9.1
   6.9
   Hct
   30.6
   29.6
   28.8
   27.9
   24.4
   Plt
   128
   110
   105
   74
   43
   Cr
   0.8
   0.9
   0.7
   0.8
   0.6
   0.6
   TCO2
   27
   24
   28
   Glucose
   80
   139
   47
   77
   113
   71
   118
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Alk Phos / T Bili:/0.1,
   Differential-Neuts:89.9 %, Lymph:8.4 %, Mono:0.5 %, Eos:1.0 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:169 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   .
   Blood cx pending
   Urine cx negative
   CT chest: 1. In situ pulmonary thrombosis, right interlobar artery
   2. Interval complete collapse of the right upper lobe, progression of
   right lower lobe and middle lobe collapse.
   3. Unchanged endobronchial mass within the right lower lobe bronchus
   and unchanged severe loculated right pleural effusion.
   4. Unchanged multiple sub-5-mm pulmonary metastases, left lung.
   5. New small left pleural effusion and left basilar atelectasis.
   6. Small amount of fluid within the gallbladder fossa is most likely
   due to fluid overload.
   CT head: neg for bleed
   Assessment and Plan
   46M with DMI and metastatic NSCLC admitted with AMS, found to have DKA
   .
   #. Altered mental status:  [**Month (only) 11**] have been related to DKA on admission as
   hyperosmolar state can cause contraction of neurons. Also concern for
   metastatic disease to brain although had MRI in [**Month (only) 93**] without brain mets
   and non-contrast head CT yesterday without signs of bleed. Infection
   (VAP, aspiration pneumonia, encephalitis) is also a possibility
   although decreasing WBC count without abx agrues against this. Other
   underlying issue is his bipolar disorder.  Just restarted his seroquel
   and depakote yesterday now that he is taking POs.  Plan to restart
   venlafaxine today.
   - trend WBC count
   - continue depakote and seroquel
   - restart home venlafaxine today
   - continue Haldol PRN
   .
    #. Bipolar disorder: Now with command hallucinations and endorses SI.
   Psych consulted.
   - Restarted home Depakote, quietiapine yesterday
   - Starting venlafaxine today
   -f/u psych recs
   - 1:1 sitter
   .
   # Tachycardia:  Likely related to his pulmonary thrombus but must also
   consider pain, hypovolemia, arrhythmia, and agitation/anxiety.  HR did
   not respond to 500cc fluid bolus, haldol or morphine, supporting that
   etiology is likely PE.
   -monitor HR
   .
   # Pulmonary thrombus: In situ R interlobar pulmonary thrombosis seen on
   CT.  Treated with lovenox yesterday but given thrombocytopenia and new
   hct drop today, will d/c lovenox and plan for possible IVC filter.
   Will get LENIs to look for leg DVT (and d/c pneumoboots in meantime)
   however likely developed in lung from external compression by cancer.
   -f/u LENIs
   -possible IVC filter
   .
   #. Respiratory Failure: Resolved and now extubated.  Good sats on NC.
   .
   #. Right pleural effusion:  Known malignant pleural effusion. Will
   watch for indication of post-obstructive pneumonia.
   .
   # Thrombocytopenia: Plt count decreasing since admission.  This is
   likely medication related as he just received chemo on [**8-6**] and he is
   on a PPI.
   -trend plt count
   - plt goal > 20
   .
   # Anemia: Rechecking hematocrit.  Active type and screen.  No e/o
   bleeding.
   -monitor hct
   -active T&S
   .
   #. Diabetic ketoacidosis: Resolved. Receiving D5NS at 150cc/hr and
   still on insulin drip.  Now that he is tolerating POs, will plan to
   transition to subq insulin today.  [**Last Name (un) 294**] rec NPH 8U q8H when plan was
   TFs but will touch base with them regarding any new recs given PO and
   see if they can develop better home regimen for him to follow.
   - q1 hour blood glucose monitoring while on insulin drip
   -t/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 294**] regarding subq recs now that he is tolerating PO
   - Antiemetics PRN
   - Home reglan and dronabinol started for help with diabetic
   gastroparesis
   .
   #. Coffee-ground emesis:  Resolved with no events since day of
   admission.  [**Month (only) 11**] be related retching ([**Doctor First Name 331**]-[**Doctor Last Name **] tear). Also
   possibility for ulceration given chemotherapy, radiation therapy.
   - Type and screen active
   - trend daily hematocrit
   - continue PPI IV BID
   manage
   .
   #. NSLC:  s/p XRT. Cycle 1 of gemcitibane, carboplatin started [**2176-8-6**].
   - on fentanyl patch and morphine PRN for pain control and sedation
   - receiving palliative chemo per onc
   - family meeting to discuss goals of care with patient
   -will consult palliative care
   .
   FEN:  Regular, DM diet, replete lytes, still on D5NS at 150cc/hr and
   insulin drip
   Prophylaxis:  Holding pneumoboots (getting LENIs to r/o DVT), PPI per
   home regimen, bowel regimen standing and as needed
   Access:  PIVs
   Code:  FULL CODE
   Communication:  [**Name (NI) 342**] [**Name (NI) 1222**] (wife)
   Disposition:  ICU for now
   ICU Care
   Nutrition: Regular, DM diet
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2176-8-13**] 12:43 AM
   20 Gauge - [**2176-8-13**] 10:54 AM
   22 Gauge - [**2176-8-13**] 10:57 AM
   Prophylaxis:
   DVT: holding p-boots and doing LENIs (no heparin as possible UGI bleed)
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2176-08-14 09:38:00 Physician Attending Progress Note
Chief Complaint: DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday afternoon.  Remains extubated.
   More alert, interactive, more appropriate, although continues to
   experience intermittent aggitation.
   Expresses concern for harm coming to him, and possiblly harming
   himself.  No specific plan, but he does not feel safe.
   Experienced increased tachycardia, without hemodynamic compromise.
                       History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Dextrose 50% - [**2176-8-13**] 02:29 PM
   Lorazepam (Ativan) - [**2176-8-14**] 12:23 AM
   Morphine Sulfate - [**2176-8-14**] 03:06 AM
   Haloperidol (Haldol) - [**2176-8-14**] 04:05 AM
   Pantoprazole (Protonix) - [**2176-8-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2176-8-14**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 121 (99 - 139) bpm
   BP: 119/78(88) {119/78(88) - 119/78(88)} mmHg
   RR: 30 (0 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 60.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,197 mL
                                                                  1,831 mL
   PO:
             TF:
   IVF:
                                                                  3,122 mL
                                                                  1,831 mL
   Blood products:
   Total out:
                                                                  4,585 mL
                                                                  2,160 mL
   Urine:
                                                                  4,585 mL
                                                                  2,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,388 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 446 (436 - 696) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.44/40/98.[**Numeric Identifier 500**]/25/2
   Ve: 7.9 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   43 K/uL
   118 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   5 mg/dL
   110 mEq/L
   145 mEq/L
   24.4 %
   6.9 K/uL
        [image002.jpg]
                             [**2176-8-11**]  04:56 PM
                             [**2176-8-11**]  07:20 PM
                             [**2176-8-11**]  11:31 PM
                             [**2176-8-12**]  04:51 AM
                             [**2176-8-12**]  10:21 AM
                             [**2176-8-12**]  03:15 PM
                             [**2176-8-13**]  12:35 AM
                             [**2176-8-13**]  04:02 AM
                             [**2176-8-13**]  05:00 PM
                             [**2176-8-14**]  04:18 AM
   WBC
   6.0
   6.6
   6.1
   9.1
   6.9
   Hct
   30.6
   29.6
   28.8
   27.9
   24.4
   Plt
   128
   110
   105
   74
   43
   Cr
   0.8
   0.9
   0.7
   0.8
   0.6
   0.6
   TCO2
   27
   24
   28
   Glucose
   80
   139
   47
   77
   113
   71
   118
   Other labs: PT / PTT / INR:12.5/27.9/1.1, Alk Phos / T Bili:/0.1,
   Differential-Neuts:89.9 %, Lymph:8.4 %, Mono:0.5 %, Eos:1.0 %, Lactic
   Acid:1.3 mmol/L, Albumin:2.3 g/dL, LDH:169 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   46 yom Stage IV NSCLC, R pleural effusion, s/p DKA and mild UGIB., now
   with progressive right atalectasis and respiratory failure
   RESPIRATORY FAILURE -- stable s/p extubation.
   PULMONARY EMBOLISM -- evidence for acute by CT scan.  Plan trial of
   lovenox and placement of IVC filter.  Check LE NIVS to assess for
   persistent source.
   DELIRIUM -- initally attributing to toxic/metabolic etiology
   (hypernatremia, hyperosmolar state), and witholding of usual
   psychiatric medications.  Since extubation, now resuming usual PO
   meds.
   TACHYCARDIA -- likely multifactorial, including pulmonary embolism,
   hypovolemia, anxiety.  Also consider pericardial involvement by lung
   cancer.
   DKA
 improved, but remains on insulin drip.  Plan to transition to
   subcutaneous insulin.  [**Last Name (un) 294**] Consultation in progress.
   UGIB -- clinical concern for [**Doctor First Name 331**]-[**Doctor Last Name **], but unclear.   Transition
   to IV PPI [**Hospital1 **].  GI Consultation following.
   ACUTE RENAL FAILURE --  improved with volume repletion.  Monitor uo,
   creatinine.
   NUTRIONAL SUPPORT -- initiate TF.
   NSCLC, stage IV- Right pleural effusion, now with right lung
   atalectasis due to extrinsic compression.   Recent chemotherapy,
   ?palliative.
   SCHIZOPHRENIA
 Psychiatry consult.  24-hr sitter.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-8-13**] 12:43 AM
   20 Gauge - [**2176-8-13**] 10:54 AM
   22 Gauge - [**2176-8-13**] 10:57 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill